US07935674B2
A mixture of 4-fluoroindoline (185 mg) and D-glucose (267 mg) in H2O (0.74 ml)-ethyl alcohol (9 ml) was refluxed under argon atmosphere for 24 hours. The solvent was evaporated under reduced pressure to give crude 4-fluoro-1-(β-D-glucopyranosyl)indoline, which was used in the subsequent step without further purification.

reactant | 4-fluoroindoline | 185 mg | FC1=C2CCNC2=CC=C1 | C8H8FN
reactant | D-glucose | 267 mg | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl alcohol | 9 ml | C(C)O | C2H6O
solvent | H2O | 0.74 ml | O | H2O
product | 4-fluoro-1-(β-D-glucopyranosyl)indoline | FC1=C2CCN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H18FNO5
